US04278806
1-trimethylsilyl-3-oxo-6-chloro-1-hexyne
To a stirred solution of 16.8 grams of 4-chlorobutyryl chloride and 20.4 grams of bis-trimethylsilylacetylene in 300 ml of dry methylene chloride, cooled in an ice bath, is added powdered anhydrous aluminum chloride, portionwise, over a period of 20 minutes. The mixture is stirred for 5 minutes, then the cooling bath is removed and the mixture stirred at room temperature for 4 hours. The mixture is poured into 500 ml of ice-water. The organic layer is separated, washed with water and brine, dried over anhydrous sodium sulfate and filtered through diatomaceous earth. The mother liquor is evaporated to dryness giving a brownish residue. The residue is Kugelrohr-distilled to give a colorless liquid.

reactant | 4-chlorobutyryl chloride | 16.8 grams | ClCCCC(=O)Cl | C4H6Cl2O
reactant | bis-trimethylsilylacetylene | 20.4 grams | C[Si](C)(C)C#C[Si](C)(C)C | C8H18Si2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-trimethylsilyl-3-oxo-6-chloro-1-hexyne | C[Si](C#CC(CCCCl)=O)(C)C | C9H15ClOSi
